US05002585
Preparation of 2-amino-4-nitro-1,3,5-trimethoxybenzene
A suspension of 26 g of palladium on charcoal (10%) is refluxed in 1.3 l of tetrahydrofuran and 26 ml of water containing 1 mole (258 g) of 2,4-dinitro-1,3,5-trimethoxybenzene. A solution of 247 g of sodium hypophosphite in 260 ml of water is added to this suspension over 3 hours. Refluxing is continued for an additional 30 minutes. After cooling, the catalyst is removed by filtration and the aqueous phase by phase separation. The organic phase is concentrated under vacuum and is then poured onto ice. The expected product precipitates. It melts at 111° C.

reactant | 2,4-dinitro-1,3,5-trimethoxybenzene | [N+](=O)([O-])C1=C(C=C(C(=C1OC)[N+](=O)[O-])OC)OC | C9H10N2O7
reactant | sodium hypophosphite | 247 g | [PH2](=O)[O-].[Na+]
catalyst | palladium on charcoal | 26 g | [Pd] | Pd
solvent | tetrahydrofuran | 1.3 l | O1CCCC1 | C4H8O
solvent | water | 260 ml | O | H2O
solvent | water | 1 mole, 26 ml, 258 g | O | H2O
product | 2-amino-4-nitro-1,3,5-trimethoxybenzene | NC1=C(C=C(C(=C1OC)[N+](=O)[O-])OC)OC | C9H12N2O5
